US04107310
Using the procedure of Step A of Example 6, 32.22 g of o-trifluoromethyl aniline and 26.52 g of valeryl chloride were reacted to form 20.63 g of N-(2-trifluoromethylphenyl)-pentanamide melting at 63° C which was used as is for the next step.

reactant | o-trifluoromethyl aniline | 32.22 g | FC(C1=C(N)C=CC=C1)(F)F | C7H6F3N
reactant | valeryl chloride | 26.52 g | C(CCCC)(=O)Cl | C5H9ClO
product | N-(2-trifluoromethylphenyl)-pentanamide | 20.63 g | FC(C1=C(C=CC=C1)NC(CCCC)=O)(F)F | C12H14F3NO
